US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-1-(4-piperazin-1-yl)ethanone (I-3)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (2.0 g, 6.98 mmol) and 1-methylpiperazine (0.69 g, 6.98 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone as a white solid (2.4 g, 93.3% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 6.98 mmol, 2.0 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 1-methylpiperazine | 6.98 mmol, 0.69 g | CN1CCNCC1 | C5H12N2
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone | 2.4 g, 93.3% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)C)C=C2 | C23H32N2O2
